* Copyright © Analog Devices, Inc. 2019.  All rights reserved.
*
.subckt ADG1611 1 2 3 4 5 6 7 8 9 10 11 12 13
C1 1 5 5p
C2 4 5 63p
C5 13 5 63p
A1 1 5 5 5 5 5 N002 5 SCHMITT Vt=1.4 Vh=1m tripdt=10n Trise=250n Tfall=500n
S1 N004 13 5 N002 TN
S2 4 N004 N002 5 BN
S3 13 N006 N002 5 TP
S4 N006 4 5 N002 BP
C6 2 5 63p
C7 3 5 63p
M1 2 N004 3 3 N
M2 3 N006 2 2 P
D1 3 13 S
D2 4 2 S
D3 2 13 S
D4 4 3 S
.model N VDMOS(Kp=.12 Vto= .5 Is=0 mtriode=1.3 Cgs=24p Ksubthres=.4 nlev=3 gdsnoi=2)
.model P VDMOS(Kp=.12 Vto=-.5 pchan Is=0 mtriode=1.3 Cgs=24p Ksubthres=.4 nlev=3 gdsnoi=2)
.model TN SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model BN SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model TP SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model BP SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model S D(Ron=5 Roff=1G Vfwd=.4 epsilon=1)
.ends ADG1611
*
.subckt ADG1612 1 2 3 4 5 6 7 8 9 10 11 12 13
C1 1 5 5p
C2 4 5 63p
C5 13 5 63p
A1 1 5 5 5 5 N002 5 5 SCHMITT Vt=1.4 Vh=1m tripdt=10n Trise=250n Tfall=500n
S1 N004 13 5 N002 TN
S2 4 N004 N002 5 BN
S3 13 N006 N002 5 TP
S4 N006 4 5 N002 BP
C6 2 5 63p
C7 3 5 63p
M1 2 N004 3 3 N
M2 3 N006 2 2 P
D1 3 13 S
D2 4 2 S
D3 2 13 S
D4 4 3 S
.model N VDMOS(Kp=.12 Vto= .5 Is=0 mtriode=1.3 Cgs=24p Ksubthres=.4 nlev=3 gdsnoi=2)
.model P VDMOS(Kp=.12 Vto=-.5 pchan Is=0 mtriode=1.3 Cgs=24p Ksubthres=.4 nlev=3 gdsnoi=2)
.model TN SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model BN SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model TP SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model BP SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model S D(Ron=5 Roff=1G Vfwd=.4 epsilon=1)
.ends ADG1612
*
.subckt ADG1633 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
C1 15 16 8p
C2 13 16 63p
C5 1 16 63p
S1 N004 1 16 N002 TN
S2 13 N004 N002 16 BN
S3 1 N009 N002 16 TP
S4 N009 13 16 N002 BP
C6 3 16 33p
C7 2 16 19p
M1 3 N004 2 2 N m=.22
M2 2 N009 3 3 P m=.22
D1 2 1 S
D2 13 3 S
D3 3 1 S
D4 13 2 S
A2 15 16 16 16 16 N007 N005 16 SCHMITT Vt=1.4 Vh=1m tripdt=5n Trise=100n Td=80n
S5 N015 1 16 N012 TN
S6 13 N015 N012 16 BN
S7 1 N014 N012 16 TP
S8 N014 13 16 N012 BP
C11 4 16 19p
M3 3 N015 4 4 N m=.22
M4 4 N014 3 3 P m=.22
D5 4 1 S
D6 13 3 S
D7 3 1 S
D8 13 4 S
C8 14 16 8p
A3 14 16 16 16 16 N008 16 16 SCHMITT Vt=1.4 Vh=1m tripdt=5n Trise=100n Tfall=225n
A5 16 N005 16 N008 16 N002 16 16 AND Trise=90n Tfall=10n tripdt=5n
A1 16 N007 16 N008 16 N012 16 16 AND Trise=90n Tfall=10n tripdt=5n
.model N VDMOS(Kp=.12 Vto= .5 Is=0 mtriode=1.3 Cgs=10p Ksubthres=.4 nlev=3 gdsnoi=2)
.model P VDMOS(Kp=.12 Vto=-.5 pchan Is=0 mtriode=1.3 Cgs=10p Ksubthres=.4 nlev=3 gdsnoi=2)
.model TN SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model BN SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model TP SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model BP SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model S D(Ron=5 Roff=1G Vfwd=.4 epsilon=1)
.ends ADG1633
*
.subckt ADG1633oops 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
C1 15 16 8p
C2 13 16 63p
C5 1 16 63p
S1 N004 1 16 N002 TN
S2 13 N004 N002 16 BN
S3 1 N009 N002 16 TP
S4 N009 13 16 N002 BP
C6 3 16 33p
C7 2 16 19p
M1 3 N004 2 2 N m=.22
M2 2 N009 3 3 P m=.22
D1 2 1 S
D2 13 3 S
D3 3 1 S
D4 13 2 S
A2 15 16 16 16 16 N007 N005 16 SCHMITT Vt=1.4 Vh=1m tripdt=10n Trise=10n
S5 N015 1 16 N012 TN
S6 13 N015 N012 16 BN
S7 1 N014 N012 16 TP
S8 N014 13 16 N012 BP
C11 4 16 19p
M3 3 N015 4 4 N m=.22
M4 4 N014 3 3 P m=.22
D5 4 1 S
D6 13 3 S
D7 3 1 S
D8 13 4 S
C8 14 16 8p
A3 14 16 16 16 16 N008 16 16 SCHMITT Vt=1.4 Vh=1m tripdt=10n Trise=10n
A5 16 N005 16 N008 16 N002 16 16 AND Trise=235n Tfall=150n
A1 16 N007 16 N008 16 N012 16 16 AND Trise=235n Tfall=150n
.model N VDMOS(Kp=.12 Vto= .5 Is=0 mtriode=1.3 Cgs=10p Ksubthres=.4 nlev=3 gdsnoi=2)
.model P VDMOS(Kp=.12 Vto=-.5 pchan Is=0 mtriode=1.3 Cgs=10p Ksubthres=.4 nlev=3 gdsnoi=2)
.model TN SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model BN SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model TP SW(Ron=500 Roff=1G Vt=.6 Vh=-.1)
.model BP SW(Ron=500 Roff=1G Vt=-.4 Vh=-.1)
.model S D(Ron=5 Roff=1G Vfwd=.4 epsilon=1)
.ends ADG1633oops
